US05166206
Step B: 6-Butyl-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine-4(3H)-one
A solution of 2.46 g (6.33 mmol) ethyl 2-[(4-iodophenyl)methyl]-3-oxoheptanoate, 6.0 g (63.3 mmol) acetamidine hydrochloride, 5.2 g (63.3 mmol) sodium acetate, and 84 mg (0.381 mmol) 2,6-di-tert-butyl-4-methylphenol in 30 mL DMF was heated to 153° C. for 12 hours. The cooled reaction mixture was poured into brine and extracted 3 times with ether. The combined organic material was washed with brine, dried over MgSO4, stripped of solvent in vacuo, then was medium pressure chromatographed on silica gel using 1/65/34 AcOH/EtOAc/hexane to give 485 mg of the title compound, 20% yield. Unreacted ethyl 2-[(4-iodophenyl)methyl]-3-oxoheptanoate was recycled. Rf 0.25 in 1/65/34 AcOH/EtOAc/hexane, visualized by UV and ninhydrin stain;

reactant | ethyl 2-[(4-iodophenyl)methyl]-3-oxoheptanoate | 6.33 mmol, 2.46 g | IC1=CC=C(C=C1)CC(C(=O)OCC)C(CCCC)=O | C16H21IO3
reactant | acetamidine hydrochloride | 63.3 mmol, 6.0 g | Cl.C(C)(=N)N
reactant | sodium acetate | 63.3 mmol, 5.2 g | C(C)(=O)[O-].[Na+]
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.381 mmol, 84 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 6-Butyl-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine-4(3H)-one | 485 mg, 20% yield | C(CCC)C1=C(C(NC(=N1)C)=O)CC1=CC=C(C=C1)I | C16H19IN2O
